US07851469B2
6-{4-[3-(4-Chloro-phenyl)-5-trifluoromethyl-isoxazol-4-yl]-imidazol-1-yl}-N-(tetrahydro-pyran-4-yl)-nicotinamide
As described for Example 48b, 6-{4-[3-(4-chloro-phenyl)-5-trifluoromethyl-isoxazol-4-yl]-imidazol-1-yl}-nicotinic acid methyl ester (100 mg, 0.23 mmol), was converted, using 4-aminotetrahydropyran instead of cyclopropanemethylamine, to the title compound (90 mg, 78%) which was obtained as a light yellow solid. MS: m/e=516.4 [M−H]−.

reactant | 6-{4-[3-(4-chloro-phenyl)-5-trifluoromethyl-isoxazol-4-yl]-imidazol-1-yl}-nicotinic acid methyl ester | 0.23 mmol, 100 mg | COC(C1=CN=C(C=C1)N1C=NC(=C1)C=1C(=NOC1C(F)(F)F)C1=CC=C(C=C1)Cl)=O | C20H12ClF3N4O3
reactant | 4-aminotetrahydropyran | NC1CCOCC1 | C5H11NO
product | 6-{4-[3-(4-Chloro-phenyl)-5-trifluoromethyl-isoxazol-4-yl]-imidazol-1-yl}-N-(tetrahydro-pyran-4-yl)-nicotinamide | 90 mg, 78% | ClC1=CC=C(C=C1)C1=NOC(=C1C=1N=CN(C1)C1=NC=C(C(=O)NC2CCOCC2)C=C1)C(F)(F)F | C24H19ClF3N5O3
